US07544812B2
A mixture of 2-methyl-2-(4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propyl}-phenoxy)-pentanoic acid ethyl ester (0.020 g, 0.040 mmol) and 5 N NaOH (0.5 mL) in EtOH (6 mL) was heated at reflux for 1 h. The reaction mixture was cooled and quenched with 1 N HCl. The mixture was then diluted with water and extracted with CH2Cl2. The organic layer was dried (Na2SO4) and the solvent removed in vacuo to afford 0.010 g (53%) 2-methyl-2-(4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propyl}-phenoxy)-pentanoic acid. 1H NMR. HRMS (ES+) m/z exact mass calcd for C27H34N2O4F3 [M+1] 507.2471, found 507.2459.

reactant | 2-methyl-2-(4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propyl}-phenoxy)-pentanoic acid ethyl ester | 0.040 mmol, 0.020 g | C(C)OC(C(CCC)(OC1=CC=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)C)=O | C29H37F3N2O4
reactant | NaOH | 5 N, 0.5 mL | [OH-].[Na+]
solvent | EtOH | 6 mL | CCO | C2H6O
product | 2-methyl-2-(4-{3-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-propyl}-phenoxy)-pentanoic acid | 0.010 g, 53% | CC(C(=O)O)(CCC)OC1=CC=C(C=C1)CCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C | C27H33F3N2O4
